US04697012
To a solution of 2,2-difluoro-2-phenylthioacetamide (1.57 g, 0.0092 mol) in 95% ethanol (20 mL) was added α-bromo-4-acetylpyridine hydrobromide (3.20 g, 0.012 mol) and the mixture warmed on a steam bath for thirty minutes. The product was isolated in the usual way and recrystallized from ethyl acetate/hexane to afford 1,1-difluoro-1-phenyl-[4-(4-pyridyl)-2-thiazolyl]methane (1.27 g, 48%). mp. 54.5°-55.5° C.

reactant | 2,2-difluoro-2-phenylthioacetamide | 0.0092 mol, 1.57 g | FC(C(=S)N)(C1=CC=CC=C1)F | C8H7F2NS
reactant | α-bromo-4-acetylpyridine hydrobromide | 0.012 mol, 3.20 g | Br.BrCC(=O)C1=CC=NC=C1
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1,1-difluoro-1-phenyl-[4-(4-pyridyl)-2-thiazolyl]methane | 1.27 g, 48% | FC(C1=CC=CC=C1)(F)C=1SC=C(N1)C1=CC=NC=C1 | C15H10F2N2S
